// Generated for: spectre
// Generated on: Mar 29 13:16:26 2016
// Design library name: 563_final
// Design cell name: bb_inv_test
// Design view name: schematic
simulator lang=spectre
global 0 vdd!
include "/project/linuxlab/cadence/CDK/ncsu/models/spectre/nom/ami06N.m"
include "/project/linuxlab/cadence/CDK/ncsu/models/spectre/nom/ami06P.m"

// Library name: 563_final
// Cell name: ff_inv
// View name: schematic
subckt ff_inv in in_bar
    N0 (in_bar in 0 0) ami06N w=1.2u l=600n as=1.8e-12 ad=1.8e-12 ps=5.4u \
        pd=5.4u m=1 region=sat
    P0 (in_bar in vdd! vdd!) ami06P w=1.2u l=600n as=1.8e-12 ad=1.8e-12 \
        ps=5.4u pd=5.4u m=1 region=sat
ends ff_inv
// End of subcircuit definition.

// Library name: 563_final
// Cell name: bb_inv_test
// View name: schematic
I12 (net2 net03) ff_inv
V1 (net2 0) vsource type=dc
V0 (vdd! 0) vsource type=dc dc=5
C0 (net03 0) capacitor c=100f m=1
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
dc dc dev=V1 param=dc start=0 stop=5 oppoint=rawfile maxiters=150 \
    maxsteps=10000 annotate=status
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
